US05942544
Part A. Oxalyl chloride was added to a solution of 3-(3-cyanophenyl)-5-(4-cyanophenyl)pentanoic acid (0.25 gm, 0.82 mmol) in 10 mLs methylene chloride under a nitrogen atmosphere at ambient temperature. The reaction was stirred for 2 hrs and was concentrated in vacuo to give a semi solid residue. The residue was taken up in 5 mLs methylene chloride and 40% methyl amine in water (5 mLs) was added. The reaction was stirred vigorously for 2 hrs and then was partioned between 1N HCl and ethyl acetate. The organic layer was washed with water, brine dried over magnesium sulfate and concentrated to give the crude product as a semisolid. The residue was purified by flash chromatography on silica gel (100 mLs) eluting methylene chloride:ethyl acetate (v:v, 80:20) to give 4-(cyano)-beta-(3-cyanophenyl)-N-methylbenzenepentanamide as a semisolid 0.120 gm (46%) MS 335(M+NH4) 1H NMR (CDCl3): 7.6-7.4(m, 6H), 7.17(d, 2H), 5.3(m, 1H), 3.27(m, 1H), 2.67(d, 2H), 2.55-2.35(m, 4H), 2.07(m, 1H), 1.95(m, 1H).

reactant | Oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(3-cyanophenyl)-5-(4-cyanophenyl)pentanoic acid | 0.82 mmol, 0.25 gm | C(#N)C=1C=C(C=CC1)C(CC(=O)O)CCC1=CC=C(C=C1)C#N | C19H16N2O2
reactant | methyl amine | CN | CH5N
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 10 mLs | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mLs | C(Cl)Cl | CH2Cl2
solvent | water | 5 mLs | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(cyano)-beta-(3-cyanophenyl)-N-methylbenzenepentanamide | 0.120 gm, 46% | C(#N)C1=CC=C(C=C1)CCC(CC(=O)NC)C1=CC(=CC=C1)C#N | C20H19N3O
